US20010036950A1
4-(3,4-Dichlorophenyl)-1,4,6,7-tetrahydro-2-methyl-3-(methylsulfonyl)-5H-cyclopenta[b]pyridin-5-one
3,4-Dichlorobenzaldehyde (175 mg, 1.0 mmol), methanesulfonylacetone (137 mg, 1.01 mmol) and 3-aminocyclopentenone (95 mg, 0.98 mmol) were heated to 80° C. in ethanol (4 mL) in a sealed tube for 3 days, cooled and the solvent evaporated. The crude material was flash chromatographed on silica gel (5% methanol/chloroform) to provide 80 mg of the title compound as a tan solid.

reactant | 3,4-Dichlorobenzaldehyde | 1.0 mmol, 175 mg | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | methanesulfonylacetone | 1.01 mmol, 137 mg | CS(=O)(=O)CC(C)=O | C4H8O3S
reactant | 3-aminocyclopentenone | 0.98 mmol, 95 mg | NC1=CC(CC1)=O | C5H7NO
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 4-(3,4-Dichlorophenyl)-1,4,6,7-tetrahydro-2-methyl-3-(methylsulfonyl)-5H-cyclopenta[b]pyridin-5-one | 80 mg | ClC=1C=C(C=CC1Cl)C1C2=C(NC(=C1S(=O)(=O)C)C)CCC2=O | C16H15Cl2NO3S
